US05464796
7-Methyl-4-methylamino-1,3,3a,4,7,7a-hexahydro-isoindole
Analogously to Example A, method I, 21.9 g (0.12 mol) of 1-(tert.-butyloxycarbonylamino)-1,3-pentadiene are reacted with 20.3 g (0.12 mol) of N-trimethylsilylmaleimide and the product is then reduced with 15.2 g (0.4 mol) of lithium aluminiumhydride. The crude product is recrystallised from tetrahydrofuran.

reactant | 1-(tert.-butyloxycarbonylamino)-1,3-pentadiene | 0.12 mol, 21.9 g | C(C)(C)(C)OC(=O)NC=CC=CC | C10H17NO2
reactant | N-trimethylsilylmaleimide | 0.12 mol, 20.3 g | C[Si](N1C(C=CC1=O)=O)(C)C | C7H11NO2Si
reactant | lithium aluminiumhydride | 0.4 mol, 15.2 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
product | 7-Methyl-4-methylamino-1,3,3a,4,7,7a-hexahydro-isoindole | CC1C=CC(C2CNCC12)NC | C10H18N2
